US07378418B2
362A. Preparation of 2-Benzyl-4-methoxy-5-p-tolylpyridazin-3(2H)-one
To a solution of 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one (20 g, 80 mmol), prepared as described in Example 361B, and 4-methylphenylboronic acid (13 g, 96 mmol) in toluene (300 mL) at RT under argon was added (Ph3P)4Pd (1.85 g, 1.8 mmol) and 2 M aqueous Na2CO3 solution (160 mL, 320 mmol). The resulting suspension was heated at 100° C. for 5 h with stirring. HPLC/MS indicated complete reaction. After cooling the reaction mixture to room temperature, it was extracted with CH2Cl2 (200 mL×2), then dried (Na2SO4), filtered and concentrated under vacuum. The crude product was purified by silica gel column chromatography (ISCO) eluting with hexanes/EtOAc to give the title compound, 2-benzyl-4-methoxy-5-p-tolylpyridazin-3(2H)-one, (21.9 g, 89%) as a white foam. MS [M+H]+ 307; HPLC retention time=3.78 min.

reactant | 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one | 80 mmol, 20 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)Cl | C12H11ClN2O2
reactant | 4-methylphenylboronic acid | 96 mmol, 13 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 320 mmol, 2 M, 160 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | (Ph3P)4Pd | 1.8 mmol, 1.85 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-benzyl-4-methoxy-5-p-tolylpyridazin-3(2H)-one | 21.9 g, 89% | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)C1=CC=C(C=C1)C | C19H18N2O2
